US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and 1-Methylpiperazine were converted to yield 3-(4-Bromo-phenyl)-6-[4-(4-methyl-piperazin-1-yl)-butoxy]-benzo[d]isothiazole as white solid, MS: 460(MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | 1-Methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-(4-Bromo-phenyl)-6-[4-(4-methyl-piperazin-1-yl)-butoxy]-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN2CCN(CC2)C | C22H26BrN3OS
